US09326987B2
6-Bromo-1-methyl-4-(1H-tetrazol-5-yl)-1H-indazole
6-Bromo-1-methyl-1H-indazole-4-carbonitrile (514 mg, 2.177 mmol) was dissolved in toluene (20 mL) and dibutyl(oxo)stannane (108 mg, 0.435 mmol) and trimethylsilyl azide (0.573 mL, 4.35 mmol) were added over 2 mins. The mixture was then stirred at 110° C. under nitrogen for 28 h. Further trimethylsilyl azide (0.03 mL, 0.228 mmol) was added and the mixture continued stirring at 110° C. under nitrogen for 44 h. The solvent was removed in vacuo to give a white solid. 2M sodium hydroxide in methanol was added and the mixture heated to 50° C. and then filtered whilst hot to remove insoluble impurities. The filtrate was cooled and then acidified via dropwise addition of 2M hydrochloric acid. The resultant precipitate was filtered and dried in a vacuum oven to give the title compound as a white solid (604 mg).

reactant | 6-Bromo-1-methyl-1H-indazole-4-carbonitrile | 2.177 mmol, 514 mg | BrC=1C=C(C=2C=NN(C2C1)C)C#N | C9H6BrN3
reactant | dibutyl(oxo)stannane | 0.435 mmol, 108 mg | C(CCC)[Sn](=O)CCCC
reactant | trimethylsilyl azide | 4.35 mmol, 0.573 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | trimethylsilyl azide | 0.228 mmol, 0.03 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 6-Bromo-1-methyl-4-(1H-tetrazol-5-yl)-1H-indazole | 604 mg | BrC1=CC(=C2C=NN(C2=C1)C)C1=NN=NN1 | C9H7BrN6
